US04992459
A solution of 3.62 g (.014 mole) of N-[3-(4-methoxyphenyl)propyl]aminoacetaldehyde dimethyl acetal and 1.4 g (.0144 mole) of KSCN in 20 ml of ethanol, 5 ml of H2O and 2 ml of concentrated HCl was refluxed for five hours. Fifty ml of H2O was added, the mixture was cooled and a solid was filtered, washed with H2O and dried. Recrystallization from ethanol gave 1-[3-(4-methoxyphenyl)propyl]-2-mercaptoimidazole, 2.4 g (69%), mp 108-109°.

reactant | N-[3-(4-methoxyphenyl)propyl]aminoacetaldehyde dimethyl acetal | .014 mole, 3.62 g | COC(CNCCCC1=CC=C(C=C1)OC)OC | C14H23NO3
reactant | KSCN | .0144 mole, 1.4 g | C(#N)[S-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | H2O | 5 ml | O | H2O
solvent | HCl | 2 ml | Cl | ClH
solvent | H2O | Fifty ml | O | H2O
product | 1-[3-(4-methoxyphenyl)propyl]-2-mercaptoimidazole | COC1=CC=C(C=C1)CCCN1C(=NC=C1)S | C13H16N2OS
